US06613913B2
8-[4-(6-Fluoro-1H-indol-3-yl)-3,6-dihydro-2H-pyridin-1-ylmethyl]-2-methyl-7,8-dihydro-1,6,9-trioxa-3-aza-cyclopenta[a]naphthalene
[(8R)-2-Methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-yl]methyl 4-methylbenzenesulfonate (0.50 g, 1.31 mmole) and 6-fluoro-3-(1,2,3,6-tetrahydro4-pyridinyl)-1H-indole (1.0 g, 4.6 mmole) were combined in 10 mL of DMSO under nitrogen. This solution was heated at 80° C. under nitrogen. After completion, the reaction was cooled to room temperature and diluted with 400 mL of ethyl acetate. The organic phase was washed with 400 mL portions of saturated aqueous sodium bicarbonate, water and saturated brine and concentrated in vacuum. The crude residue was column chromatographed on silica gel using 1% methanol/methylene chloride to give 0.52 g of the (S)-enantiomer of the title compound, which was a yellow solid (m.p. 188-190° C.) after evaporation of the solvent.

reactant | [(8R)-2-Methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-yl]methyl 4-methylbenzenesulfonate | 1.31 mmole, 0.50 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=CC=3N=C(OC32)C)OC1 | C18H17NO6S
reactant | 6-fluoro-3-(1,2,3,6-tetrahydro4-pyridinyl)-1H-indole | 4.6 mmole, 1.0 g | FC1=CC=C2C(=CNC2=C1)C=1CCNCC1 | C13H13FN2
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | 8-[4-(6-Fluoro-1H-indol-3-yl)-3,6-dihydro-2H-pyridin-1-ylmethyl]-2-methyl-7,8-dihydro-1,6,9-trioxa-3-aza-cyclopenta[a]naphthalene | FC1=CC=C2C(=CNC2=C1)C=1CCN(CC1)CC1COC2=CC=C3C(=C2O1)OC(=N3)C | C24H22FN3O3
